US06943169B2
1-(3-Bromo-benzyl)-1,3,4,5-tetrahydro-benzo[b]azepin-2-one
To a stirred mixture of 0.1 g (4 mmole) sodium hydride and 0.75 g (3.0 mmole) 3-bromobenzyl bromide in 5 mL dimethylformamide was added 0.438 g (2.72 mmole) solid 1,3,4,5-tetrahydro-benzo[b]azepin-2-one. The mixture was cooled in a water bath, then it was stirred at 23° for 1 hr. The solvent was removed under reduced pressure and the residue was partitioned between 30 mL ethyl acetate and 5 mL water. The organic phase was washed with 5 mL water, 5 mL saturated sodium chloride, dried (mgSO4) and concentrated under reduced pressure. The residue was recrystallized from hexane to provide the title compound, 0.658 g, m.p. 81-82°.

reactant | sodium hydride | 4 mmole, 0.1 g | [H-].[Na+]
reactant | 3-bromobenzyl bromide | 3.0 mmole, 0.75 g | BrC=1C=C(CBr)C=CC1 | C7H6Br2
reactant | 1,3,4,5-tetrahydro-benzo[b]azepin-2-one | N1C2=C(CCCC1=O)C=CC=C2 | C10H11NO
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 1-(3-Bromo-benzyl)-1,3,4,5-tetrahydro-benzo[b]azepin-2-one | BrC=1C=C(CN2C3=C(CCCC2=O)C=CC=C3)C=CC1 | C17H16BrNO
